US05665718
4 ml (8.6 mmol) of N-ethyldiisopropylamine and 1.1 ml (12 mmol) of 1-bromopropane were added to a solution of 600 mg (1.9 mmol) of (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-11,11a-dihydro-8H, 10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one in 20 ml of dimethylformamide and the mixture was stirred at 70° for 12 hours. The reaction solution was subsequently evaporated and the residue was partitioned between methylene chloride and 2N sodium carbonate solution. The aqueous phase was washed three times with methylene chloride. The organic phases were dried with magnesium sulfate, filtered and evaporated. The residue obtained was chromatographed (silica gel, methylene chloride/methanol/aqueous ammonia 140:10:1). There were obtained 410 mg (54%) of (S)-1-(dipropylaminomethyl-1,2,4-oxadiazol-5-yl)-11,11 a-dihydro-8H, 10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one as a colourless foam, Rf=0.55 (silica gel, methylene chloride/methanol/aqueous ammonia 140:10:1).

reactant | N-ethyldiisopropylamine | 8.6 mmol, 4 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-bromopropane | 12 mmol, 1.1 ml | BrCCC | C3H7Br
reactant | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-11,11a-dihydro-8H, 10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 1.9 mmol, 600 mg | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C14H12N6O2S
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (S)-1-(dipropylaminomethyl-1,2,4-oxadiazol-5-yl)-11,11 a-dihydro-8H, 10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 410 mg, 54% | C(CC)N(CCC)CC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C20H24N6O2S
